US05200550
(a) methyl 3-(1-adamantyl)-4-ethylbenzoate
Into a reactor there are introduced 3 g (10 mmoles) of methyl 3-(1-adamantyl)-4-vinylbenzoate, 270 mg of palladium on charcoal (5%) and 50 ml of dioxan. Hydrogenation is effected at ambient temperature and under a pressure of 4 bars for 4 hours. The catalyst is filtered and the filtrate is evaporated. 3 g (100% yield) of the expected product in the form of a colorless oil are recovered.

reactant | methyl 3-(1-adamantyl)-4-vinylbenzoate | 10 mmoles, 3 g | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C(=O)OC)C=CC2C=C | C20H24O2
catalyst | palladium on charcoal | 270 mg | [Pd] | Pd
solvent | dioxan | 50 ml | O1CCOCC1 | C4H8O2
product | methyl 3-(1-adamantyl)-4-ethylbenzoate | 3 g, 100% yield | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C(=O)OC)C=CC2CC | C20H26O2
